US07517889B2
To a mixture of 1-{4-chloro-6-[2-(2,4-dichloro-phenyl)-ethylamino]-pyrimidin-2-yl}-ethane-1,2-diol (320 mg, 0.88 mmol) in MeOH (5 mL) and water (5 mL) is added sodium meta-periodate (567 mg, 2.65 mmol) and stirred for 16 hours before adding water (50 mL), and extracted thrice with EtOAc (30 mL). The organic extracts are combined and dried over magnesium sulfate, filtered and concentrated to afford 4-chloro-6-[2-(2,4-dichloro-phenyl)-ethylamino]-pyrimidine-2-carbaldehyde (270 mg, 93%) as a solid.

reactant | 1-{4-chloro-6-[2-(2,4-dichloro-phenyl)-ethylamino]-pyrimidin-2-yl}-ethane-1,2-diol | 0.88 mmol, 320 mg | ClC1=NC(=NC(=C1)NCCC1=C(C=C(C=C1)Cl)Cl)C(CO)O | C14H14Cl3N3O2
reactant | sodium meta-periodate | 2.65 mmol, 567 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 4-chloro-6-[2-(2,4-dichloro-phenyl)-ethylamino]-pyrimidine-2-carbaldehyde | 270 mg, 93% | ClC1=NC(=NC(=C1)NCCC1=C(C=C(C=C1)Cl)Cl)C=O | C13H10Cl3N3O
